US08497265B2
To tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidine-1-carboxylate (400 mg, 0.86 mmol) was added 4 M HCl in MeOH (20 mL). The reaction mixture was stirred at room temperature for 30 min and concentrated. The residue was dried under high vacuum to give 2-(3-((3-(piperidin-4-yl)pyrazin-2-yl)oxy)azetidin-1-yl)quinoline hydrochloride (310 mg, 0.86 mmol, 100% yield) as a white solid. ESI-MS (M+1): 362 calc. for C21H23N5O 361.

reactant | tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidine-1-carboxylate | 0.86 mmol, 400 mg | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C26H31N5O3
reactant | HCl | 4 M | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(3-((3-(piperidin-4-yl)pyrazin-2-yl)oxy)azetidin-1-yl)quinoline hydrochloride | 0.86 mmol, 310 mg, 100% yield | Cl.N1CCC(CC1)C=1C(=NC=CN1)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C21H23N5O.ClH/c1-2-4-18-15(3-1)5-6-19(25-18)26-13-17(14-26)27-21-20(23-11-12-24-21)16-7-9-22-10-8-16;/h1-6,11-12,16-17,22H,7-10,13-14H2;1H
